* C:\users\chris\Projects\eurorack\DIST\hardware\ltspice\combined.asc
V1 N002 0 PULSE(0 250m 0 {0.5/freq} {0.5/freq} 0 {1/freq})
V2 N001 0 24
R1 VDD BIAS 10k
R2 BIAS 0 10k
C1 BIAS 0 47µ
R3 VDD N001 47
V3 NC_01 0 SINE(0 1 {freq})
V4 VIN 0 wavefile="C:\input.wav" chan=0
B1 IN 0 V=V(VIN)*5
B2 OUT 0 V=V(DIST_IN)/5
C2 N013 N012 22n
R4 N013 BIAS 1Meg
XU1 N013 N015 VDD 0 N014 TL072
C3 N014 N015 1n
D1 N015 N014 1N4148
D2 N014 N015 1N4148
R5 N014 N015 50k
R6 N015 N019 1k
C4 N019 0 220n
R7 N008 N014 1k
C5 N008 0 220n
C6 N016 N007 220n
R8 N009 N008 2.2k
R9 N010 N008 220k
R10 N011 N009 5k
R11 N003 N011 5k
C7 N011 N010 1n
XU2 BIAS N010 VDD 0 N004 TL072
C8 N004 N010 1n
R12 N004 N003 1k
R13 N004 N010 220k
R14 N016 N017 10k
R15 N017 0 90k
R16 N018 N017 560
R17 N012 N005 20k
R18 N012 BIAS 10k
XU3 N004 N006 VDD 0 N007 TL072
R19 N007 N006 40k
R20 N006 BIAS 10k
R21 N023 N022 20k
R22 BIAS N023 10k
C9 N024 N023 22n
R23 N024 BIAS 1Meg
XU4 N025 N032 VDD 0 N027 TL072
R24 N025 N024 220
C10 N025 0 22n
C11 N027 N032 100n
R25 N027 N032 50k
R26 N032 N035 47
R27 N032 N036 560
C12 N035 0 2.2µ
C13 N036 0 4.7µ
C14 N027 P001 4.7µ
R28 N028 P001 1k
D3 0 N028 1N4148
D4 N028 0 1N4148
R29 N029 N028 50k
R30 N030 N029 1.5k
C15 N030 0 3.3n
C16 N026 N021 220n
R31 N026 N033 10k
R32 N033 0 90k
R33 N034 N033 560
XU5 N031 N020 VDD 0 N021 TL072
R34 N021 N020 40k
R35 N020 BIAS 10k
R36 N031 BIAS 1Meg
C17 N031 N030 22n
R40 N050 N043 20k
R41 0 N050 10k
C19 N051 N050 22n
R42 N051 0 1Meg
R43 N052 N051 6.8k
C20 N052 0 22n
XU6 N052 N056 VDD 0 N053 TL072
R44 N053 N056 100k
R45 N056 0 10k
C21 N054 N053 1µ
R46 N054 N061 50k
R47 N061 N064 50k
R48 N064 0 1k
C22 N062 N061 100n
R49 N044 N062 10k
R50 N044 0 100k
Q1 N040 N044 N063 0 BC547B
R51 N063 0 150
R52 N040 N044 470k
C23 N040 N044 1n
C24 N039 N044 1µ
D5 N040 N039 1N4148
D6 N039 N040 1N4148
R53 VDD N040 10k
C25 N057 N040 100n
R54 N041 N057 10k
R55 N041 0 100k
Q2 N038 N041 N060 0 BC547B
R56 N060 0 150
R57 N038 N041 470k
C26 N038 N041 1n
C27 N037 N041 1µ
D7 N038 N037 1N4148
D8 N037 N038 1N4148
R58 VDD N038 10k
R59 N055 N038 39k
C28 N042 N038 4n
R60 N042 N045 50k
R61 N045 N055 50k
R62 0 N042 22k
C29 N055 0 10n
XU7 N046 N049 VDD 0 N047 TL072
R63 N047 N049 150k
R64 N049 BIAS 10k
R65 N048 N058 10k
R66 N058 0 90k
R67 N059 N058 560
C30 N048 N047 220n
R68 N046 BIAS 1Meg
C31 N046 N045 22n
R37 N073 N071 20k
R38 BIAS N073 10k
C18 N074 N073 22n
R39 N074 BIAS 1Meg
R69 N092 N087 39k
C32 N088 N087 4n
R70 N088 N090 50k
R71 N090 N092 50k
R72 0 N088 22k
C33 N092 0 10n
C34 N089 N086 220n
R73 N089 N093 50k
R74 N093 0 50k
R75 N094 N093 560
XU8 N091 N085 VDD 0 N086 TL072
R76 N086 N085 100k
R77 N085 BIAS 10k
R78 N091 BIAS 1Meg
C35 N091 N090 22n
XU9 N065 N076 VDD 0 N075 TL072
C36 N075 N076 1n
D9 N076 N075 1N4148
D10 N075 N076 1N4148
R79 N075 N076 100k
R80 N076 N084 1k
C37 N084 0 220n
R81 N068 N065 90k
R82 N065 BIAS 10k
R83 N068 N075 1k
C38 N065 N074 220n
R84 N065 BIAS 5k
C39 N078 N075 10µ
R85 N078 N080 2.2k
M1 N080 N081 N083 N083 BSP89
R86 VDD N082 470k
Q3 N082 N079 0 0 BC547B
C40 N079 0 220n
D11 N077 N079 1N4148
D12 0 N077 1N4148
C41 N070 N077 1µ
Q4 N070 N066 0 0 BC547B
R87 N066 N070 2.2Meg
R88 VDD N070 4.7k
C42 N066 N072 1µ
R89 N072 N067 100k
XU10 N069 N067 VDD 0 N067 TL072
C43 N080 N087 4.7µ
R90 N082 N081 1k
R91 VDD N083 1k
R92 N083 0 47
C44 N069 IN 220n
R93 N069 0 1Meg
XU11 N018 DIST_IN VDD 0 DIST_IN TL072
XU12 IN N005 VDD 0 N005 TL072
XU13 DIST_IN N022 VDD 0 N022 TL072
XU14 N034 FUZZ_IN VDD 0 FUZZ_IN TL072
XU15 N059 WRMERGLE VDD 0 WRMERGLE TL072
XU16 FUZZ_IN N043 VDD 0 N043 TL072
XU17 WRMERGLE N071 VDD 0 N071 TL072
XU18 N094 WRMERGLE_OUT VDD 0 WRMERGLE_OUT TL072
.model D D
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.mos
.param freq=100
* SINE
* TRI
* AUDIO
* SOURCES
* POWER
* SCALE TO +-5V
* SCALE TO +-1V
.tran 5
.wave "C:\export.wav" 16 44.1k V(OUT)
.SUBCKT TL072    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
* TONE POT
* VOL POT
* INPUT SCALING
* CLIPPING
* TONE
* OUTPUT SCALING
* OVERDRIVE
* TONE POT
* 100k-A
* DRIVE POT
* 100k-A
* CLIPPING
* INPUT SCALING
* TONE
* VOL POT
* 100k-A
* BUFFER
* VOLUME
* DISTORTION
* INPUT FILTERING
* SCALE
* DRIVE POT
* 100k-A
* SUSTAIN | DRIVE
* CLIP A
* CLIP B
* TONE
* VOL POT
* 100k-A
* VOLUME
* FUZZ
* INPUT FILTERING
* TONE
* VOL POT
* 100k-A
* BUFFER
* VOLUME
* CLIPPING
* DRIVE POT
* 100k-A
* TONE POT
* 100k-A
* GATE POT
* 100k-B
* NOISE GATE
* WRMERGLE
.backanno
.end
